US08138175B2
F) (R)-2-Methyl-4-(3-piperidin-1-yl-propyl)-1-(3-trifluoromethyl-phenyl)-[1,4]diazepan-5-one
The title compound was prepared from (R)-2-methyl-4-(3-piperidin-1-yl-propyl)-[1,4]diazepan-5-one and iodobenzotrifluoride in analogy to example 33. MS: 398.3 (MH+).

reactant | (R)-2-methyl-4-(3-piperidin-1-yl-propyl)-[1,4]diazepan-5-one | C[C@H]1NCCC(N(C1)CCCN1CCCCC1)=O | C14H27N3O
reactant | iodobenzotrifluoride | IC1=C(C=CC=C1)C(F)(F)F | C7H4F3I
product | (R)-2-Methyl-4-(3-piperidin-1-yl-propyl)-1-(3-trifluoromethyl-phenyl)-[1,4]diazepan-5-one | C[C@H]1N(CCC(N(C1)CCCN1CCCCC1)=O)C1=CC(=CC=C1)C(F)(F)F | C21H30F3N3O
